US04916135
N-(1H-Pyrrol-1-yl)-7-trifluoromethyl-4-quinolinamine hydrochloride
A solution of 4-chloro-7-(trifluoromethyl)quinoline (5 g) and 1H-pyrrol-1-amine (2.1 g) in 100 ml of isopropanol containing 1 ml saturated ether/HCl was stirred for thirty minutes at reflux, and thereafter was cooled, stirred with water, basified with sodium carbonate and extracted with ether. The organic extract was washed successively with water and saturated sodium chloride solution, dried (anhy. MgSO4), filtered and concentrated to 6.5 g solid. This was converted to the hydrochloride salt and recrystallized twice from methanol/ether to give 2.4 g white crystals, 260° dec.

reactant | 4-chloro-7-(trifluoromethyl)quinoline | 5 g | ClC1=CC=NC2=CC(=CC=C12)C(F)(F)F | C10H5ClF3N
reactant | 1H-pyrrol-1-amine | 2.1 g | N1(C=CC=C1)N | C4H6N2
reactant | water | O | H2O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | isopropanol | 100 ml | C(C)(C)O | C3H8O
product | N-(1H-Pyrrol-1-yl)-7-trifluoromethyl-4-quinolinamine hydrochloride | 2.4 g | Cl.N1(C=CC=C1)NC1=CC=NC2=CC(=CC=C12)C(F)(F)F | InChI=1S/C14H10F3N3.ClH/c15-14(16,17)10-3-4-11-12(5-6-18-13(11)9-10)19-20-7-1-2-8-20;/h1-9H,(H,18,19);1H
